US06593330B2
Step 1: 2-Chloro-6-[(3,5-dimethoxybenzyl)oxy]pyrazine
The title compound was prepared according to the procedure of example 50, step 1, starting from 3,5-dimethoxybenzyl alcohol (2.16 g, 12.8 mmol), K-t-BuO (1.34 g, 11.9 mmol) and 2,6-dichloropyrazine (1.59 g, 10.7 mmol). The yield of the title compound was 2.56 g (84%) and was obtained as a white solid. HRMS m/z calcd for C13H13ClN2O3 (M)+ 280.0615, found 280.0627. Anal. (C13H13ClN2O3) C, H, N.

reactant | 3,5-dimethoxybenzyl alcohol | 12.8 mmol, 2.16 g | COC=1C=C(CO)C=C(C1)OC | C9H12O3
reactant | 2,6-dichloropyrazine | 10.7 mmol, 1.59 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 2-Chloro-6-[(3,5-dimethoxybenzyl)oxy]pyrazine | ClC1=NC(=CN=C1)OCC1=CC(=CC(=C1)OC)OC | C13H13ClN2O3
